US08557834B2
N-{[3-Cyclohexyl-6-hydroxy-2,4-dioxo-1-(1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycine
Phenylmethyl 3-[3-cyclohexyl-5-({[2-(ethyloxy)-2-oxoethyl]amino}carbonyl)-6-hydroxy-2,4-dioxo-3,4-dihydro-1(2H)-pyrimidinyl]-1-piperidinecarboxylate (100 mg, 0.18 mmoles) was dissolved in ethanol (3.0 mL) and treated with 6 molar sodium hydroxide (1.5 mL). The mixture was stirred for 2 hours, acidified and extracted with ethyl acetate (×2). The combined extracts were washed with 1 molar hydrochloric acid, dried and evaporated to a foam (80 mg, 84%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.11 (s, 1 H), 10.17 (s, 1 H), 7.30-7.40 (m, 5 H), 5.10 (s, 2H), 4.57-4.69 (m, 2 H), 4.13 (d, J=5.81 Hz, 2 H), 3.95-4.05 (m, 2 H), 3.64 (s, 1 H), 3.37 (s, 1 H), 2.73 (s, 1 H), 2.36-2.48 (m, 1 H), 2.25 (q, J=11.62 Hz, 2 H), 1.70-1.82 (m, 4 H), 1.62 (d, J=11.37 Hz, 3 H), 1.38-1.50 (m, 1 H), 1.21-1.33 (m, 2 H), 1.06-1.18 (m, 1 H)

reactant | Phenylmethyl 3-[3-cyclohexyl-5-({[2-(ethyloxy)-2-oxoethyl]amino}carbonyl)-6-hydroxy-2,4-dioxo-3,4-dihydro-1(2H)-pyrimidinyl]-1-piperidinecarboxylate | 0.18 mmoles, 100 mg | C1(CCCCC1)N1C(N(C(=C(C1=O)C(=O)NCC(=O)OCC)O)C1CN(CCC1)C(=O)OCC1=CC=CC=C1)=O | C28H36N4O8
reactant | sodium hydroxide | 6 molar, 1.5 mL | [OH-].[Na+]
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | N-{[3-Cyclohexyl-6-hydroxy-2,4-dioxo-1-(1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycine | C1(CCCCC1)N1C(N(C(=C(C1=O)C(=O)NCC(=O)O)O)C1CN(CCC1)C(=O)OCC1=CC=CC=C1)=O | C26H32N4O8
